US06350762B1
1) Synthesis of benzyl 4,4-dimethoxy-3-oxobutyrate
2.68 g (14.1 mmol) of ethyl 4,4-dimethoxy-3-oxo-butyrate, 3.62 ml (34.9 mmol) of benzyl alcohol and 244 mg (2.0 mmol) of 4-dimethylaminopyridine were heated under reflux in 40 ml of toluene for three nights. A phosphate buffer solution was added to the obtained reaction solution. After the extraction with ethyl acetate, the organic layer was washed with a saturated aqueous salt solution and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=9:1) to obtain the title compound.

reactant | ethyl 4,4-dimethoxy-3-oxo-butyrate | 14.1 mmol, 2.68 g | COC(C(CC(=O)OCC)=O)OC | C8H14O5
reactant | benzyl alcohol | 34.9 mmol, 3.62 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | phosphate | P(=O)([O-])([O-])[O-]
catalyst | 4-dimethylaminopyridine | 2.0 mmol, 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 4,4-dimethoxy-3-oxobutyrate | COC(C(CC(=O)OCC1=CC=CC=C1)=O)OC | C13H16O5
